US05859007
(1-Benzyl-1H-indazol-3-yl) methanol
To a stirring solution of 735 mg (2.15 mmol) of 1-Benzyl-1H-indazole-3-carboxylic acid benzyl ester, prepared as in Intermediate 14, in 15 mL dichloromethane at -78° C. is added dropwise over 5 min a solution of 5.4 mL (5.4 mmol, 2.5 equiv) of a 1.0M solution of DIBAL-H in hexane. The resulting solution is allowed to slowly warm to RT over a 4 h period then quenched by careful addition of 5 mL of H2O. The reaction mixture is poured into 100 mL of EtOAc and extracted with 1N HCl (1×100 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 448 mg of the title compound as a pale yellow solid: 1H NMR (CDCl3, 300 MHz) δ7.80 (d, 1H), 7.40-7.08 (m, 8H), 5.50 (s, 2H), 5.04 (d, 2H), 2.24 (m, 1H); Rf =0.50 in hexane/EtOAc 1/1.

reactant | 1-Benzyl-1H-indazole-3-carboxylic acid benzyl ester | 2.15 mmol, 735 mg | C(C1=CC=CC=C1)OC(=O)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C22H18N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (1-Benzyl-1H-indazol-3-yl) methanol | 448 mg | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CO | C15H14N2O
